US07414060B2
3-(5-Cyclopropyl-2-methyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide
The tide compound, was prepared from 3-(5-Cyclopropyl-2-methyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid ethyl ester and 2-Amino-4-methylthiazole in accordance with the general method of Example 78, step 2 to yield the final compound as a yellow solid, MS (ISP): m/e=369.0 (M+H+).

reactant | 3-(5-Cyclopropyl-2-methyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1N(N=C(C1)C1CC1)C)C | C16H20N4O2
reactant | 2-Amino-4-methylthiazole | NC=1SC=C(N1)C | C4H6N2S
product | 3-(5-Cyclopropyl-2-methyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC=C1NC=1N(N=C(C1)C1CC1)C)C | C18H20N6OS
